US07858675B2
Step 1: Synthesis of Suberaldehyde
262 ml of aqueous NaIO4 was added drop wise to a vigorously stirred suspension of 105 g chromatographic grade silica gel in 500 ml dichloromethane whereby a white suspension was formed. To the suspension a solution of 6.1 g cis-1,2-cyclo-octanediol in 100 ml dichloromethane was added. The reaction mixture was stirred over night at room temperature, after which the mixture was filtered whereby the residue was washed 3 times with 100 ml dichloromethane. Finally the filtrate was dried over NaSO4, after which the solvent was removed under reduced pressure.

reactant | cis-1,2-cyclo-octanediol | 6.1 g | [C@@H]1([C@H](CCCCCC1)O)O | C8H16O2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Suberaldehyde | C(CCCCCCC=O)=O | C8H14O2
